US04885300
1-Amino-3-[4-[bis(4-fluorophenyl)methyl]-1-piperazinyl]-2-propanol
A solution of 1-[1-(2,3-epoxy)propyl]-4-[bis(4-fluorophenyl)methyl]piperazine (8.9 g, 25.8 mmol) and liquid ammonia (20 mL) in EtOH (40 mL) was heated in a teflon reaction vessel in a bomb at 110° C. for 28 h. The solution was then evaporated to dryness to give about 10 g of a glass which was purified using flash chromatography on silica gel and increasing proportions of methanol in methylene chloride to give the product as an oil which solidified upon vacuum drying, 5.7 g (61%), mp 45°-47° C. IR(neat) 3350 cm-1 ; 300 MHz 1H NMR (CDCl3) δ: 7.4-6.9 (m, 8H), 4.21 (s, 1H), 3.68 (br m, 1H) 2.8-2.2 (m, 12H); MS 362 (MH+).

reactant | 1-[1-(2,3-epoxy)propyl]-4-[bis(4-fluorophenyl)methyl]piperazine | 25.8 mmol, 8.9 g | O1C(CN2CCN(CC2)C(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C1 | C20H22F2N2O
reactant | ammonia | 20 mL | N | H3N
solvent | EtOH | 40 mL | CCO | C2H6O
product | 1-Amino-3-[4-[bis(4-fluorophenyl)methyl]-1-piperazinyl]-2-propanol | about 10 g | NCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | C20H25F2N3O
